US05968985
10% palladium on carbon (0.1 g) was added to a mixture of methyl 3-benzyloxycarbonylmethoxy-5-hydroxybenzoate (1 g) in methanol (20 ml) and the mixture was subjected to catalytic reduction at ambient temperature under atmospheric pressure. The catalyst was removed by filtration and the filtrate was evaporated in vacuo to give methyl 3-carboxymethoxy-5-hydroxybenzoate (0.74 g).

reactant | methyl 3-benzyloxycarbonylmethoxy-5-hydroxybenzoate | 1 g | C(C1=CC=CC=C1)OC(=O)COC=1C=C(C(=O)OC)C=C(C1)O | C17H16O6
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | methyl 3-carboxymethoxy-5-hydroxybenzoate | 0.74 g | C(=O)(O)COC=1C=C(C(=O)OC)C=C(C1)O | C10H10O6
